US07307094B2
N-(1-Azabicyclo[2.2.2]oct-3-yl)-6-chloro-2-phenylbenzoxazole-4-carboxamide was prepared from 6-chloro-2-phenyl-benzoxazole-4-carboxylic acid and 3-aminoquinuclidine dihydrochloride using the method outlined in Step C of Example 7. This compound was obtained in 24% yield as a white solid: mp 180-183° C.; 1H NMR (500 MHz, CDCl3) δ 9.45 (d, J=7.3 Hz, 1H), 8.22 (d, J=5.0 Hz, 2H), 8.18 (d, J=2.0 Hz, 1H), 7.72 (d, J=2.0 Hz, 1H), 7.64-7.47 (m, 3H), 4.29 (m, 1H), 3.51 (dd, J=7.2, 2.1 Hz, 1H), 3.05 (m, 2H), 2.91 (m, 2H), 2.80 (dd, J=10.2, 4.0 Hz, 1H), 2.15 (m, 1H), 2.04 (m, 1H), 1.78-1.60 (m, 3H); MS (APCI) m/z 382 [M+H]+

reactant | 6-chloro-2-phenyl-benzoxazole-4-carboxylic acid | ClC=1C=C2C(N=C(O2)C2=CC=CC=C2)=C(C1)C(=O)O | C14H8ClNO3
reactant | 3-aminoquinuclidine dihydrochloride | Cl.Cl.NC1CN2CCC1CC2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-6-chloro-2-phenylbenzoxazole-4-carboxamide | 24% yield | N12CC(C(CC1)CC2)NC(=O)C=2C=C(C=C1C2N=C(O1)C1=CC=CC=C1)Cl | C21H20ClN3O2
